US06573270B1
N-[4-(1,3-benzodioxol-5-yl)-1-(2-hydroxyethyl)-5-methoxy-1H-pyrazol-3-yl]-2-phenyl-1-ethanesulfonamide
2-{4-(1,3-Benzodioxol-5-yl)-5-methoxy-3-[(methoxymethyl)(phenethylsulfonyl)amino]-1H-pyrazol-1-yl}ethyl acetate (Preparation 54) (70 mg), oxalic acid (200 mg) were dissolved in a mixture of water (2 ml) and methanol (2 ml) and refluxed for two days. The reaction was diluted with water (10 ml) and the mixture was then extracted with dichloromethane (3×8 ml). The combined organic fractions were dried over sodium sulfate, concentrated under reduced pressure to yield a pale yellow oil which was purified by column chromatography (Sep-Pak™, 10 g) eluted with dichloromethane:methanol (97:3) to yield the title compound as a colourless oil (32 mg).

reactant | 2-{4-(1,3-Benzodioxol-5-yl)-5-methoxy-3-[(methoxymethyl)(phenethylsulfonyl)amino]-1H-pyrazol-1-yl}ethyl acetate | 70 mg | C(C)(=O)OCCN1N=C(C(=C1OC)C1=CC2=C(OCO2)C=C1)N(S(=O)(=O)CCC1=CC=CC=C1)COC | C25H29N3O8S
reactant | oxalic acid | 200 mg | C(C(=O)O)(=O)O | C2H2O4
solvent | water | 2 ml | O | H2O
solvent | methanol | 2 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | N-[4-(1,3-benzodioxol-5-yl)-1-(2-hydroxyethyl)-5-methoxy-1H-pyrazol-3-yl]-2-phenyl-1-ethanesulfonamide | 32 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2OC)CCO)NS(=O)(=O)CCC2=CC=CC=C2 | C21H23N3O6S
